Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[CH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8](-[c:9]2[n:10][c:11]3[c:12]([s:13]2)[CH2:14][N:15]([C:16]([CH3:17])=[O:18])[CH2:19][CH2:20]3)[cH:21][cH:22]1.[CH3:23][CH:24]1[CH2:25][CH2:26][CH2:27][NH:28]1>>[CH2:1]([CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8](-[c:9]2[n:10][c:11]3[c:12]([s:13]2)[CH2:14][N:15]([C:16]([CH3:17])=[O:18])[CH2:19][CH2:20]3)[cH:21][cH:22]1)[N:28]1[CH:24]([CH3:23])[CH2:25][CH2:26][CH2:27]1,[Cl:101][CH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8](-[c:9]2[n:10][c:11]3[c:12]([s:13]2)[CH2:14][N:15]([C:16]([CH3:17])=[O:18])[CH2:19][CH2:20]3)[cH:21][cH:22]1.[CH3:23][CH:24]1[CH2:25][CH2:26][CH2:27][NH:28]1>>[CH2:1]([CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8](-[c:9]2[n:10][c:11]3[c:12]([s:13]2)[CH2:14][N:15]([C:16]([CH3:17])=[O:18])[CH2:19][CH2:20]3)[cH:21][cH:22]1)[N:28]1[CH:24]([CH3:23])[CH2:25][CH2:26][CH2:27]1,SN2,"[(28, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[c:3]1[cH:18][cH:17][c:6]([CH2:7][CH2:8][NH:9][C:10](=[O:11])[O:12][C:13]([CH3:14])([CH3:15])[CH3:16])[cH:5][cH:4]1>>[CH2:1]([OH:2])[c:3]1[cH:4][cH:5][c:6]([CH2:7][CH2:8][NH:9][C:10](=[O:11])[O:12][C:13]([CH3:14])([CH3:15])[CH3:16])[cH:17][cH:18]1,CC[O:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([CH2:7][CH2:8][NH:9][C:10](=[O:11])[O:12][C:13]([CH3:14])([CH3:15])[CH3:16])[cH:17][cH:18]1.[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])[c:3]1[cH:4][cH:5][c:6]([CH2:7][CH2:8][NH:9][C:10](=[O:11])[O:12][C:13]([CH3:14])([CH3:15])[CH3:16])[cH:17][cH:18]1,ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][CH2:2][c:3]1[n:4][c:5]2[c:6]([CH3:7])[cH:8][c:9]([CH2:10][C:11]([CH3:12])=[O:13])[n:14][c:15]2[n:16]1[C@H:17]1[CH2:18][CH2:19][c:20]2[cH:21][c:22](-[c:23]3[cH:24][cH:25][cH:26][cH:27][c:28]3-[c:29]3[n:30][n:31][n:32][n:33]3[C:34]([c:41]3[cH:42][cH:43][cH:44][cH:45][cH:46]3)([c:47]3[cH:48][cH:49][cH:50][cH:51][cH:52]3)[c:35]3[cH:36][cH:37][cH:38][cH:39][cH:40]3)[cH:53][cH:54][c:55]21>>[CH3:1][CH2:2][c:3]1[n:4][c:5]2[c:6]([CH3:7])[cH:8][c:9]([CH2:10][CH:11]([CH3:12])[OH:13])[n:14][c:15]2[n:16]1[C@H:17]1[CH2:18][CH2:19][c:20]2[cH:21][c:22](-[c:23]3[cH:24][cH:25][cH:26][cH:27][c:28]3-[c:29]3[n:30][n:31][n:32][n:33]3[C:34]([c:35]3[cH:36][cH:37][cH:38][cH:39][cH:40]3)([c:41]3[cH:42][cH:43][cH:44][cH:45][cH:46]3)[c:47]3[cH:48][cH:49][cH:50][cH:51][cH:52]3)[cH:53][cH:54][c:55]21,[CH3:1][CH2:2][c:3]1[n:4][c:5]2[c:6]([CH3:7])[cH:8][c:9]([CH2:10][C:11]([CH3:12])=[O:13])[n:14][c:15]2[n:16]1[C@H:17]1[CH2:18][CH2:19][c:20]2[cH:21][c:22](-[c:23]3[cH:24][cH:25][cH:26][cH:27][c:28]3-[c:29]3[n:30][n:31][n:32][n:33]3[C:34]([c:35]3[cH:36][cH:37][cH:38][cH:39][cH:40]3)([c:41]3[cH:42][cH:43][cH:44][cH:45][cH:46]3)[c:47]3[cH:48][cH:49][cH:50][cH:51][cH:52]3)[cH:53][cH:54][c:55]21.[BH4-:301].[CH3][OH1:302]>>[CH3:1][CH2:2][c:3]1[n:4][c:5]2[c:6]([CH3:7])[cH:8][c:9]([CH2:10][CH:11]([CH3:12])[OH:13])[n:14][c:15]2[n:16]1[C@H:17]1[CH2:18][CH2:19][c:20]2[cH:21][c:22](-[c:23]3[cH:24][cH:25][cH:26][cH:27][c:28]3-[c:29]3[n:30][n:31][n:32][n:33]3[C:34]([c:35]3[cH:36][cH:37][cH:38][cH:39][cH:40]3)([c:41]3[cH:42][cH:43][cH:44][cH:45][cH:46]3)[c:47]3[cH:48][cH:49][cH:50][cH:51][cH:52]3)[cH:53][cH:54][c:55]21,carbonyl_reduction,"[([301, 301.1], 11), ([11, 13], 13), (13, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][cH:4][c:5]([C:6]#[N:7])[cH:8][c:9]1[F:10])=[O:11].[CH3:12][C@@H:13]1[CH2:14][N:15]([C:16](=[O:17])[O:18][C:19]([CH3:20])([CH3:21])[CH3:22])[CH2:23][CH2:24][NH:25]1>>[C:1]([c:2]1[cH:3][cH:4][c:5]([C:6]#[N:7])[cH:8][c:9]1[F:10])(=[O:11])[N:25]1[C@H:13]([CH3:12])[CH2:14][N:15]([C:16](=[O:17])[O:18][C:19]([CH3:20])([CH3:21])[CH3:22])[CH2:23][CH2:24]1,[CH3:12][C@@H:13]1[CH2:14][N:15]([C:16](=[O:17])[O:18][C:19]([CH3:20])([CH3:21])[CH3:22])[CH2:23][CH2:24][NH:25]1.[OH:101][C:1]([c:2]1[cH:3][cH:4][c:5]([C:6]#[N:7])[cH:8][c:9]1[F:10])=[O:11].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][c:5]([C:6]#[N:7])[cH:8][c:9]1[F:10])(=[O:11])[N:25]1[C@H:13]([CH3:12])[CH2:14][N:15]([C:16](=[O:17])[O:18][C:19]([CH3:20])([CH3:21])[CH3:22])[CH2:23][CH2:24]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (25, 1), ([1, 11], 11), (303, 25.1), ([25.1, 25], 25), (11, [11, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
